US05464855
To a stirred solution of 0.494 g (1.8 mM) of 3-isopropoxy-5-oxo-6,7-dihydro-4H-thieno[3,2-c]thiopyran-2-carboxylic acid (from Preparation 13) in 10 mL of DMF were added 0.438 g (2.7 mmol) of 1,1'-carbonyldiimidazole. The reaction mixture was heated at 80° C. for 60 minutes, followed by addition in one portion of 0.283 g (3.33 mmol) of 5-aminotetrazole. The reaction mixture was heated at 80° C. for 5 hours, cooled to 24° C., and stirred for an additional 18 hours. The mixture was concentrated to dryness by evaporation of the solvent under reduced pressure. The residue was dissolved in 100 mL of chloroform, washed with 2N HCl, water, brine, dried over MgSO4, and the solvent was removed by evaporation under reduced pressure. The solid residue was recrystallized from methanol/diethyl ether to afford 0.279 g of 3-isopropoxy-5-oxo-6,7-dihydro-4H-thieno[3,2-c] thiopyran-2-carboxylic acid (1H-tetrazol-5-yl) amide, mp 225°-226° C.

reactant | 3-isopropoxy-5-oxo-6,7-dihydro-4H-thieno[3,2-c]thiopyran-2-carboxylic acid | 1.8 mM, 0.494 g | C(C)(C)OC1=C(SC2=C1CS(CC2)=O)C(=O)O | C11H14O4S2
reactant | 1,1'-carbonyldiimidazole | 2.7 mmol, 0.438 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 3.33 mmol, 0.283 g | NC1=NN=NN1 | CH3N5
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-isopropoxy-5-oxo-6,7-dihydro-4H-thieno[3,2-c] thiopyran-2-carboxylic acid (1H-tetrazol-5-yl) amide | 0.279 g | N1N=NN=C1NC(=O)C1=C(C=2CS(CCC2S1)=O)OC(C)C | C12H15N5O3S2
